US03974162
[4-Chloro-6-(p-chlorobenzylamino)-2-pyrimidinyloxy]acetic acid ethyl ester.
To 4.2 g. of ethyl glycolate in 50 ml. of anhydrous tetrahydrofuran was added 1.7 g. of sodium hydride oil dispersion (57 percent) with stirring. There was added after 20 minutes 11.5 g. of 2,4-dichloro-6-(p-chlorobenzylamino)pyrimidine.

reactant | ethyl glycolate | C(CO)(=O)OCC | C4H8O3
reactant | sodium hydride oil dispersion | [H-].[Na+]
reactant | 2,4-dichloro-6-(p-chlorobenzylamino)pyrimidine | ClC1=NC(=CC(=N1)Cl)NCC1=CC=C(C=C1)Cl | C11H8Cl3N3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [4-Chloro-6-(p-chlorobenzylamino)-2-pyrimidinyloxy]acetic acid ethyl ester | C(C)OC(COC1=NC(=CC(=N1)Cl)NCC1=CC=C(C=C1)Cl)=O | C15H15Cl2N3O3
